US08304557B2
(ii) 3-(1-cyano-1-methylethyl)-N-{3-[(6-nitropyridin-3-yl)oxy]phenyl}benzamide
To a solution of 5-bromo-2-nitropyridine (4.56 g, 22.4 mmol) and cesium carbonate (10.9 g, 33.6 mmol) in N,N-dimethylformamide (40 mL) was added dropwise a solution of 3-(1-cyano-1-methylethyl)-N-(3-hydroxyphenyl)benzamide (6.92 g, 24.6 mmol) in N,N-dimethylformamide (20 mL) over 30 min, and the mixture was stirred at room temperature for 28 hr. Cesium carbonate (3.63 g, 11.2 mmol) was added to the reaction mixture, and the mixture was further stirred with heating at 60° C. for 15 hr. Water (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate-hexane mixture (1:1, 200 mL, 3×50 mL). The combined organic layer was washed with saturated brine (30 mL) and dried over anhydrous magnesium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=90/10→50/50), and fractions containing the desired t product were concentrated under reduced pressure to give the title compound (6.01 g, 67%) as a yellow amorphous solid.

reactant | 5-bromo-2-nitropyridine | 22.4 mmol, 4.56 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 33.6 mmol, 10.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(1-cyano-1-methylethyl)-N-(3-hydroxyphenyl)benzamide | 24.6 mmol, 6.92 g | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)O)C=CC1 | C17H16N2O2
reactant | Cesium carbonate | 11.2 mmol, 3.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-(1-cyano-1-methylethyl)-N-{3-[(6-nitropyridin-3-yl)oxy]phenyl}benzamide | 6.01 g, 67% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=NC(=CC2)[N+](=O)[O-])C=CC1 | C22H18N4O4
